US04369139
7.0 g. of the sodium salt of 2-pyrrolidinone (prepared using sodium hydride) suspended in 120 ml. of dimethylformamide are added at -10° C. to a solution of 20.0 g. of p-methoxybenzoic acid pentachlorophenyl ester in 100 ml. of dimethylformamide. Subsequently, the mixture is stirred at room temperature for 1 hour and at 55° C. for 8 hours. The solvent is evaporated, the residue is treated with cold aqueous acetic acid solution and the mixture is extracted with ethyl acetate. The organic phase is washed with cold sodium bicarbonate solution and water, dried over sodium sulfate, filtered and evaporated. The residue is taken up in ethanol and stirred in an ice bath. The separated crystals are filtered off and there is obtained 1-(p-methoxybenzoyl)-2-pyrrolidinone having a melting point of 119°-120° C.

reactant | sodium | [Na] | Na
reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
reactant | p-methoxybenzoic acid pentachlorophenyl ester | ClC1=C(C(=C(C(=C1OC(C1=CC=C(C=C1)OC)=O)Cl)Cl)Cl)Cl | C14H7Cl5O3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(p-methoxybenzoyl)-2-pyrrolidinone | COC1=CC=C(C(=O)N2C(CCC2)=O)C=C1 | C12H13NO3
